US05108486
To a stirred mixture of 5.00 g (0.0125 mole) of 3-trifluoromethyl-4,5-dihydro-4-(4-iodo-2-methylphenyl)-1-methyl-1,2,4-triazol-5(1H)-thione and 2.46 g (0.0250 mole) of trimethylsilylacetylene in 20 ml of acetonitrile and 100 ml of triethylamine was added 0.0880 g (0.000125 mole) of bis(triphenylphosphine)palladium (II) chloride and 0.048 g (0.00025 mole) of copper (I) iodide. The reaction mixture was heated at reflux for approximately 18 hours. The solvents were removed from the reaction mixture by evaporation under reduced pressure, leaving a residue. This residue was dissolved in chloroform, and the organic solution was washed in succession with an aqueous, saturated sodium chloride solution and an aqueous, 20% ammonium chloride solution. The washed organic phase was evaporated under reduced pressure, leaving a dark oil. This oil was purified by column chromatography on silica gel, eluting with chloroform, to yield 4.7 g of 3-trifluoromethyl-4,5-dihydro-1-methyl-4-(2-methyl-4-trimethylsilylethynylphenyl)-1,2,4-triazol-5(1H)-thione as a solid, mp 90°-93° C., Compound 113 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 3-trifluoromethyl-4,5-dihydro-4-(4-iodo-2-methylphenyl)-1-methyl-1,2,4-triazol-5(1H)-thione | 0.0125 mole, 5.00 g | FC(C1=NN(C(N1C1=C(C=C(C=C1)I)C)=S)C)(F)F | C11H9F3IN3S
reactant | trimethylsilylacetylene | 0.0250 mole, 2.46 g | C[Si](C)(C)C#C | C5H10Si
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.000125 mole, 0.0880 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.00025 mole, 0.048 g | [Cu]I
product | 3-trifluoromethyl-4,5-dihydro-1-methyl-4-(2-methyl-4-trimethylsilylethynylphenyl)-1,2,4-triazol-5(1H)-thione | 4.7 g | FC(C1=NN(C(N1C1=C(C=C(C=C1)C#C[Si](C)(C)C)C)=S)C)(F)F | C16H18F3N3SSi
